US08426441B2
A mixture of 3-amino-4,6-dichloropyridazine (0.315 g, 1.92 mmol), 3 mL of isopropanol and 0.5 mL of a 50% chloroacetaldehyde in water solution was stirred at 80° C. for 20 h, then concentrated to remove isopropanol. The resulting yellow mixture was treated with 10 mL of a saturated aq. NaHCO3 solution and extracted with two 10 mL portions of dichloromethane. The combined organic layers were dried over MgSO4, filtered and concentrated to a yellow oil. Column chromatography (0->33% EtOAc/hexanes) afforded 0.313 g (87%) of 6,8-dichloro-imidazo[1,2-b]pyridazine as a light yellow solid.

reactant | 3-amino-4,6-dichloropyridazine | 1.92 mmol, 0.315 g | NC=1N=NC(=CC1Cl)Cl | C4H3Cl2N3
reactant | isopropanol | 3 mL | C(C)(C)O | C3H8O
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | water | O | H2O
product | 6,8-dichloro-imidazo[1,2-b]pyridazine | 0.313 g, 87% | ClC=1C=C(C=2N(N1)C=CN2)Cl | C6H3Cl2N3
